US06121322
Diethyl 2-amino-6-[(ethoxycarbonyloxy-carbamoyl)-methyl]-azulene-1,3-dicarboxylate
In an analogous manner to that described in Example 12, from diethyl 2-amino-6-[(hydroxycarbamoyl)-methyl]-azulene-1,3-dicarboxylate and ethyl chloroformate the title compound is obtained in 47% yield as an oil.

reactant | diethyl 2-amino-6-[(hydroxycarbamoyl)-methyl]-azulene-1,3-dicarboxylate | NC1=C(C2=CC=C(C=CC2=C1C(=O)OCC)CC(NO)=O)C(=O)OCC | C18H20N2O6
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | Diethyl 2-amino-6-[(ethoxycarbonyloxy-carbamoyl)-methyl]-azulene-1,3-dicarboxylate | 47% yield | NC1=C(C2=CC=C(C=CC2=C1C(=O)OCC)CC(NOC(=O)OCC)=O)C(=O)OCC | C21H24N2O8
